US09107916B2
B. 2-{5-[(1-methyl-1H-indazol-6-yl)methoxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared in 11% yield from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (1-methyl-1H-indazol-6-yl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 4.09 (3H, s), 5.40 (2H, s), 5.78 (1H, d, J=1.6 Hz), 7.19-7.17 (1H, m), 7.40 (1H, dd, J=1.2 Hz, J=5.2 Hz), 7.51 (1H, s), 7.58 (1H, d, J=2.0 Hz), 7.75 (1H, s, J=8.4 Hz), 7.99 (1H, d, J=0.4 Hz), 8.07 (1H, s), 8.71 (1H, d, J=8.4 Hz). [M+H] Calc'd for C18H14N6O, 331. Found, 331.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (1-methyl-1H-indazol-6-yl)methanol | CN1N=CC2=CC=C(C=C12)CO | C9H10N2O
product | 2-{5-[(1-methyl-1H-indazol-6-yl)methoxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | 11% yield | CN1N=CC2=CC=C(C=C12)COC1=CC=NN1C1=NC=CC(=C1)C#N | C18H14N6O
